US04283341
To a solution of (1R)-3-methyl-1-trichloromethyl-2-butenyl acetoacetate (1.63 g., 5.68 mmole) from Example IA.2.(a) and triethylamine (0.57 g, 5.68 mmole) in 10 ml of acetonitrile was added dropwise in small portions at 7-10 minute intervals over a total period of 30 minutes a solution of tosyl azide (1.12 g, 5.68 mmole) in 2 ml of acetonitrile. After stirring at room temperature for 21/4 hours, the mixture was poured into 17 ml of aqueous 1N NaOH. After stirring an additional 45 minutes, the mixture was extracted three times with ether, and the combined ethereal extracts were dried over MgSO4. The dried solution was concentrated to give an orange oil. The oil was chromatographed on 8 (20×20 cm) preparative tlc plates (silica gel) with CH2Cl2 as eluent to afford (1R)-3-methyl-1-trichloromethyl-2-butenyl diazoacetate (0.96 g, 62% isolated yield) as a yellow oil; [α]D31 =+59° (hexane).

reactant | (1R)-3-methyl-1-trichloromethyl-2-butenyl acetoacetate | 5.68 mmole, 1.63 g | C(CC(=O)C)(=O)O[C@H](C=C(C)C)C(Cl)(Cl)Cl | C10H13Cl3O3
reactant | triethylamine | 5.68 mmole, 0.57 g | C(C)N(CC)CC | C6H15N
reactant | tosyl azide | 5.68 mmole, 1.12 g | S(=O)(=O)(C1=CC=C(C)C=C1)N=[N+]=[N-] | C7H7N3O2S
reactant | NaOH | 1N | [OH-].[Na+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | (1R)-3-methyl-1-trichloromethyl-2-butenyl diazoacetate | 0.96 g, 62% | [N+](=[N-])=CC(=O)O[C@H](C=C(C)C)C(Cl)(Cl)Cl | C8H9Cl3N2O2
